US06451811B2
N-(4-Chlorobenzyl)-6-(3-hydroxypropyl)-1,7-dimethyl-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxamide
To a solution of N-(4-chlorobenzyl)-6-(3-hydroxy-1-propynyl)-1,7-dimethyl-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxamide (0.12 g, 0.30 mmol) in CH2Cl2 (20 mL) and MeOH (3 mL) is added 10% Pd/C (21 mg). The reaction is subjected to hydrogenation at 18 psi for 30 min. The reaction is filtered over Celite and monitored to determine the extent of the reaction. Fresh catalyst is added and the reaction is placed under hydrogen at 18 psi again. After another 30 minutes, the reaction is complete. The reaction is filtered over Celite. The filter cake is rinsed thoroughly with CH2Cl2 and MeOH. The filtrate is concentrated in vacuo and the residue is then dissolved in CH2Cl2 and adsorbed onto silica. Purification by chromatography (eluent 1% MeOH/CH2Cl2 (1L), 2% MeOH/CH2Cl2 (1L), 4% MeOH/CH2Cl2 (1L)) affords the desired product as a white solid (0.079 g, 0.20 mmol, 66%). Physical characteristics are as follows: m.p. 176-177° C.; 1H NMR (300 MHz, DMSO-d6) δ 10.30, 8.98, 8.35, 7.41, 7.36, 4.59, 4.56, 4.01, 3.47, 2.82, 2.67, 1.75; IR (drift) 1658, 1609, 1556, 1531, 1503, 1458, 1420, 1357, 1333, 1260, 1095, 1056, 1017, 811, 701 cm−1; MS (ESI) m/z 400.1 (M+H)+, 398.1 (M—H)−; HRMS (FAB) calcd for C21H22ClN3O3+H1 400.1428, found 400.1434.

reactant | N-(4-chlorobenzyl)-6-(3-hydroxy-1-propynyl)-1,7-dimethyl-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxamide | 0.30 mmol, 0.12 g | ClC1=CC=C(CNC(=O)C2=CN(C3=NC(=C(C=C3C2=O)C#CCO)C)C)C=C1 | C21H18ClN3O3
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 3 mL | CO | CH4O
catalyst | Pd/C | 21 mg | [Pd] | Pd
product | N-(4-Chlorobenzyl)-6-(3-hydroxypropyl)-1,7-dimethyl-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxamide | 0.20 mmol, 0.079 g, 66% | ClC1=CC=C(CNC(=O)C2=CN(C3=NC(=C(C=C3C2=O)CCCO)C)C)C=C1 | C21H22ClN3O3
